US03951950
To a well stirred solution of 1.2 gm. (0.01 mole) of allyl bromide in 50 ml. of benzene, a solution of 1.5 gm. (0.01 mole) of 4-azatricyclo[4.3.1.13,8 ]undecane in 50 ml. of benzene is added dropwise. The mixture is refluxed 1 hr., cooled, and 1 gm. of acetic anhydride is added. The mixture is refluxed an additional 2 hrs., cooled, poured into ice water and acidified with acetic acid. The layers are separated and the aqueous layer is extracted with ether. The acidic aqueous layer is made basic with NaOH, and extracted with chloroform. The chloroform extract is washed with water, dried over magnesium sulfate, filtered and the solvent evaporated to give 4-allyl- 4-azatricyclo[4.3.1.13,8 ]undecane.

reactant | allyl bromide | 0.01 mole | C(C=C)Br | C3H5Br
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 4-azatricyclo[4.3.1.13,8 ]undecane | 0.01 mole | C12CC3NCC(CC(C1)C3)C2 | C10H17N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-allyl- 4-azatricyclo[4.3.1.13,8 ]undecane | C(C=C)N1C2CC3CC(CC(C1)C3)C2 | C13H21N
